### PR TITLE
[Merged by Bors] - feat: Zeckendorf's theorem

### PR DESCRIPTION
**Pull request by YaelDillies**
Prove Zeckendorf's theorem: Every natural number can be written uniquely as a sum of distinct non-consecutive Fibonacci numbers.

Instead of proving an `ExistsUnique` statement, I define an equivalence between natural numbers and Zeckendorf representations.

---

This is a rehash of https://github.com/leanprover-community/mathlib/pull/12443

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/ContinuedFractions/Computation/Approximations.lean
Comment (YaelDillies) [inline Mathlib/Algebra/ContinuedFractions/Computation/Approximations.lean:1]: Had to fix a few things because of the API changes to `Nat.fib`, and it was easier to golf the proofs than to understand what they did.

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean [hunk 1]
```diff
@@ -0,0 +1,175 @@
...
+
+## Tags
+
+fibonacci, zeckendorf, digit
+-/
+
+open List Nat
+open scoped BigOperators
+
+local instance : IsTrans ℕ λ a b ↦ b + 2 ≤ a where
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Fib/Zeckendorf.lean:36]:
```suggestion
local instance : IsTrans ℕ fun a b ↦ b + 2 ≤ a where
```
and throughout

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean [hunk 2]
```diff
@@ -0,0 +1,175 @@
...
+  refine (add_lt_add_left (sum_fib_lt hl.2 this) _).trans_le ?_
+  rw [add_comm, ←fib_add_one (hl.1.2.trans_lt' zero_lt_two).ne']
+  exact fib_mono (hn _ rfl)
+
+end List
+
+namespace Nat
+variable {l : List ℕ} {a m n : ℕ}
+
+/-- The index of the greatest Fibonacci number less than `n`. -/
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Fib/Zeckendorf.lean:68]:
```suggestion
/-- The index of the greatest Fibonacci number less than or equal to `n`. -/
```

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean:36]: Do we have any style guide regarding this? I don't think the community as a whole has come to the conclusion that we should avoid `λ`.

Comment (eric-wieser) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean:36]: We systematically eliminated every use of `λ` with mathport. Any that remain are almost certainly due to manual porting.

Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean:36]: Okay, so this is a [mathportism](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/mathlib4.3A.20autoImplicit.20false.20by.20default.3F/near/384422977), not a style recommendation.

Comment (j-loreaux) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean:36]: Just because it was implemented by mathport doesn't make it a mathportism. This reflects Lean 4 style, and I think it's been mentioned other places that we prefer to avoid `λ` for anonymous functions.

Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean]: This is very vague but because you ask nicely. I'll stick to `fun` *for now*.

File: Mathlib/Data/Nat/Fib/Basic.lean
Comment (eric-wieser) [inline Mathlib/Data/Nat/Fib/Basic.lean:1]: Can you leave this at `Nat/Fib.lean` for now, to reduce the diff? Moving the file later will make this PR much smaller, and isn't the important bit of this PR.

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean [hunk 3]
```diff
@@ -0,0 +1,177 @@
...
+  refine (add_lt_add_left (sum_fib_lt hl.2 this) _).trans_le ?_
+  rw [add_comm, ←fib_add_one (hl.1.2.trans_lt' zero_lt_two).ne']
+  exact fib_mono (hn _ rfl)
+
+end List
+
+namespace Nat
+variable {l : List ℕ} {a m n : ℕ}
+
+/-- The index of the greatest Fibonacci number less than or equal to `n`. -/
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Fib/Zeckendorf.lean:70]: This docstring doesn't specify how the tie is broken for `1`

Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean]: Better now?

File: Mathlib/Data/Nat/Fib/Basic.lean
Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Basic.lean:1]: Sure, although it only shaves three files off the diff and I don't really see the point of making the move a separate PR since the diff wasn't mangled.

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean [hunk 4]
```diff
@@ -0,0 +1,177 @@
...
+
+/-- The Zeckendorf representation of a natural number. -/
+def zeckendorf : ℕ → List ℕ
+| 0 => []
+| m@(n + 1) => let a := greatestFib m
+  have := zeckendorf_aux (n.succ_pos.trans_eq $ Eq.symm ‹_›)
+  a :: zeckendorf (m - fib a)
+
+@[simp] lemma zeckendorf_zero : zeckendorf 0 = [] := rfl
+-- The linter is hallucinating: It must be seeing the `have` from within the def of `zeckendorf`
```
Comment (alexjbest) [inline Mathlib/Data/Nat/Fib/Zeckendorf.lean:120]: I'm not sure it's hallucinating, the have is really there, the issue is that it shouldn't be in the equation lemmas at all. See https://leanprover.zulipchat.com/#narrow/stream/348111-std4/topic/spurious.20.60unusedHavesSuffices.60.20linter.20error.3F one workaround is to but the have inside the `decreasing_by` proof as in https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.236582

Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean:120]: But I can just nolint it, right? I've written a better equation lemma anyway.

Comment (alexjbest) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean:120]: The issue is only if anyone else will ever unfold the definition directly yeah. I forget if there is a way to register your equation lemmas as _the_ equation lemmas, there was some discussion about that being possible at some point.

Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean]: Haven't seen that. I've left a comment to the user's attention for now.

Comment (eric-wieser) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean]: Yes, that's `@[eqns]`

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean [hunk 5]
```diff
@@ -119,9 +119,9 @@ def zeckendorf : ℕ → List ℕ
   have := zeckendorf_aux (n.succ_pos.trans_eq $ Eq.symm ‹_›)
   a :: zeckendorf (m - fib a)
 
-@[simp] lemma zeckendorf_zero : zeckendorf 0 = [] := rfl
+@[simp, eqns] lemma zeckendorf_zero : zeckendorf 0 = [] := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Fib/Zeckendorf.lean:122]: I don't think this is how this attribute works: aren't you supposed to give it arguments, and attach it to the def?

Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean]: Tried it but it still seem to be a no-op.

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean [hunk 6]
```diff
@@ -0,0 +1,182 @@
...
+def zeckendorf : ℕ → List ℕ
+| 0 => []
+| m@(n + 1) => let a := greatestFib m
+  have := zeckendorf_aux (n.succ_pos.trans_eq $ Eq.symm ‹_›)
+  a :: zeckendorf (m - fib a)
+
+@[simp] lemma zeckendorf_zero : zeckendorf 0 = [] := rfl
+-- The equational lemma `zeckendorf` has an unused `have`
+@[simp, nolint unusedHavesSuffices] lemma zeckendorf_succ (n : ℕ) :
+  zeckendorf (n + 1) = greatestFib (n + 1) :: zeckendorf (n + 1 - fib (greatestFib (n + 1))) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Fib/Zeckendorf.lean:125]: This one should be indented four spaces rather than two

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean [hunk 7]
```diff
@@ -0,0 +1,182 @@
...
+lemma zeckendorf_sum_fib : ∀ {l}, IsZeckendorfRep l → zeckendorf (l.map fib).sum = l
+| [], _ => rfl
+| a :: l, hl => by
+  have hl' := hl
+  simp only [IsZeckendorfRep, cons_append, chain'_iff_pairwise, pairwise_cons, mem_append,
+    mem_singleton, or_imp, forall_and, forall_eq, zero_add] at hl
+  rw [←chain'_iff_pairwise] at hl
+  have ha : 0 < a := hl.1.2.trans_lt' zero_lt_two
+  suffices h : greatestFib (fib a + sum (map fib l)) = a
+  · simp only [map, List.sum_cons, add_pos_iff, fib_pos.2 ha, true_or, zeckendorf_of_pos, h,
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Fib/Zeckendorf.lean:158]: In lean 4 style:
```suggestion
  suffices h : greatestFib (fib a + sum (map fib l)) = a by
    simp only [map, List.sum_cons, add_pos_iff, fib_pos.2 ha, true_or, zeckendorf_of_pos, h,
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Nits:

File: Mathlib/Data/Nat/Fib/Zeckendorf.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Fib/Zeckendorf.lean:158]: What?? I can't believe you on this one.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by alexjbest** [comment]
I'm sure you don't really care but the reason that eqns failed is that `simp [zeckendorf]` was used to prove one of the equation lemmas. This has the effect of causing lean to generate its own eqn lemmas first, before the user ones are registered. Once this happens it means the user ones aren't ever even used by lean! The way around this is to use more targeted definitional unfolding (i.e. proof by rfl or convert) to prove your equation lemmas.
